US05000775
Ethyl 2-(phenylamino)4(trifluoromethyl)-5-oxazolecarboxylate
By the procedure of Example 4, 8.2 g (60 mmol) of phenyl urea was reacted with 10.9 g (50 mmol) of ethyl 2-chloro-4,4,4-trifluoroacetoacetate at 140°-150° C. for 24 hours. The product mixture was treated with methylene chloride, washed with water, dried and concentrated. The residue was recrystallized from methylcyclohexane to yield 6.2 g of crystal product (m.p.=114°-116° C.) identified in Table I.

reactant | phenyl urea | 60 mmol, 8.2 g | C1(=CC=CC=C1)NC(=O)N | C7H8N2O
reactant | ethyl 2-chloro-4,4,4-trifluoroacetoacetate | 50 mmol, 10.9 g | ClC(C(=O)OCC)C(=O)C(F)(F)F | C6H6ClF3O3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Ethyl 2-(phenylamino)4(trifluoromethyl)-5-oxazolecarboxylate | 6.2 g | C1(=CC=CC=C1)NC=1OC(=C(N1)C(F)(F)F)C(=O)OCC | C13H11F3N2O3
